US07456289B2
LAH (0.093 g, 2.39 mmol) was added to a mixture of methyl 2-(6-methoxybenzofuran-3-yl)-2-oxoacetate (0.280 g, 1.196 mmol) in THF (10 mL) at 0° C. under N2, and the mixture was stirred overnight at room temperature under N2. An aqueous NH4Cl solution (5 mL) was added, and the reaction mixture was concentrated to half its volume and extracted with EtOAc. The organic layer was washed with brine and water, dried over anhydrous MgSO4, and evaporated to give 1-(6-methoxy-benzofuran-3-yl)-ethane-1,2-diol.

reactant | LAH | 2.39 mmol, 0.093 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 2-(6-methoxybenzofuran-3-yl)-2-oxoacetate | 1.196 mmol, 0.280 g | COC1=CC2=C(C(=CO2)C(C(=O)OC)=O)C=C1 | C12H10O5
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(6-methoxy-benzofuran-3-yl)-ethane-1,2-diol | COC1=CC2=C(C(=CO2)C(CO)O)C=C1 | C11H12O4
